US05759739
Synthesis of p-butoxystyrene/t-butyl acrylate copolymer
In an autoclave equipped with a 1.5-liter glass polymerization vessel and purged with nitrogen, polymerization reaction was carried out by dissolving 225.0 grams (1.28 mol) of p-butoxystyrene and 25.0 grams (0.20 mol) of t-butyl acrylate in 500 grams of acetone, adding 7.5 grams of t-butylperoxy(2-ethylhexanoate) as a polymerization catalyst, and heating the mixture at 90° C. Thereafter, the catalyst was added in incremental amounts, that is, 5.0 grams after 21/2 hours and 2.5 grams after 41/2 hours from the start of polymerization reaction. After 6 hours of polymerization, the reaction solution was cooled down and the acetone was distilled off. A 9/1 methanol/water mixture was added to the reaction solution, causing the copolymer to crystallize. The copolymer had a weight average molecular weight (Mw) of 9,200, a dispersity (Mw/Mn) of 1.64, and a copolymerization ratio of 6:1. The yield was 70.0%.

reactant | p-butoxystyrene | 1.28 mol, 225.0 grams | C(CCC)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | t-butyl acrylate | 0.20 mol, 25.0 grams | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | t-butylperoxy(2-ethylhexanoate) | 7.5 grams | C(C)(C)(C)OOC(C(=O)[O-])(CCCC)CC
solvent | acetone | 500 grams | CC(=O)C | C3H6O
product | p-butoxystyrene t-butyl acrylate | yield was 70.0% | C(CCC)OC1=CC=C(C=C)C=C1.C(C=C)(=O)OC(C)(C)C | InChI=1S/C12H16O.C7H12O2/c1-3-5-10-13-12-8-6-11(4-2)7-9-12;1-5-6(8)9-7(2,3)4/h4,6-9H,2-3,5,10H2,1H3;5H,1H2,2-4H3
